US09126931B2
6,6-Dimethyl-11-oxo-8-(2-oxo-2-piperazin-1-yl-ethoxy)-6,11-dihydro-5H-benzo[b]carbazole-3-carbonitrile hydrochloric acid salt
4-[2-(3-Cyano-6,6-dimethyl-11-oxo-6,11-dihydro-5H-benzo[b]carbazol-8-yloxy)-acetyl]-piperazine-1-carboxylic acid tert-butyl ester (Compound A9-15-1, 20 mg) was added with 4 N hydrochloric acid and dioxane solution (1 ml), and stirred in an water bath at 10° C. for 4 hr. Water was added to the reaction solution and the resulting precipitates were filtered and dried to obtain the title compound (15 mg, white powder).

reactant | 4-[2-(3-Cyano-6,6-dimethyl-11-oxo-6,11-dihydro-5H-benzo[b]carbazol-8-yloxy)-acetyl]-piperazine-1-carboxylic acid tert-butyl ester | 20 mg | C(C)(C)(C)OC(=O)N1CCN(CC1)C(COC=1C=CC2=C(C(C=3NC4=CC(=CC=C4C3C2=O)C#N)(C)C)C1)=O | C30H32N4O5
reactant | hydrochloric acid | 4 N | Cl | ClH
reactant | dioxane | 1 ml | O1CCOCC1 | C4H8O2
solvent | Water | O | H2O
product | 6,6-Dimethyl-11-oxo-8-(2-oxo-2-piperazin-1-yl-ethoxy)-6,11-dihydro-5H-benzo[b]carbazole-3-carbonitrile hydrochloric acid salt | 15 mg | Cl.CC1(C2=C(C(C=3C4=CC=C(C=C4NC13)C#N)=O)C=CC(=C2)OCC(N2CCNCC2)=O)C | InChI=1S/C25H24N4O3.ClH/c1-25(2)19-12-16(32-14-21(30)29-9-7-27-8-10-29)4-6-17(19)23(31)22-18-5-3-15(13-26)11-20(18)28-24(22)25;/h3-6,11-12,27-28H,7-10,14H2,1-2H3;1H
